US05596002
(7-Chloro-quinolin-4-yl)-(3-piperidin-1-yl-propyl)-amine
2.73 g from 2.83 g of 3-(piperidin-1-yl)-propylamine and 3.94 g of 4,7-dichloroquinoline (reaction duration, 16 hours at 140° C.); the base (yellowish crystals from acetonitrile, m.p.: 113°-116° C.) was converted with isopropanolic hydrochloric acid into the dihydrochloride which when recrystallized from acetonitrile/ethanol, yielded colourless crystals, m.p.: 137°-141° C.

reactant | 3-(piperidin-1-yl)-propylamine | 2.83 g | N1(CCCCC1)CCCN | C8H18N2
reactant | 4,7-dichloroquinoline | 3.94 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | hydrochloric acid | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | (7-Chloro-quinolin-4-yl)-(3-piperidin-1-yl-propyl)-amine | ClC1=CC=C2C(=CC=NC2=C1)NCCCN1CCCCC1 | C17H22ClN3
